US07851474B2
Step 4. Preparation of 6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}pyridazine-3-carbonitrile
In a sealed tube, dissolve 3-chloro-6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}pyridazine (205 mg, 0.541 mmol), Zn(CN)2 (39 mg, 0.325 mmol), Pd2dba3 (12.3 mg, 0.0135 mmol) and DPPF (15 mg, 0.027 mmol) in DMF (3 mL). Add I drop of H2O and degas the solution with N2. Seal the tube and heat at 120° C. overnight. Cool and dilute with 3 N HCl (30 mL). Extract with CH2Cl2 (2×25 mL). Discard these extracts. Basify the aqueous layer with 10 N NaOH and extract with CH2Cl2 (3×35 mL). Combine, dry (MgSO4) and evaporate the organic extracts to yield the title compound. 1H NMR (CDCl3) δ 7.44 (d, 1H), 6.83 (d, 1H), 3.84-3.1 (m, 4H), 3.66-3.58 (m, 4H), 3.26 (s, 2H), 2.75-2.66 (m, 5H), 2.33-2.29 (m, 4H), 2.07-2.01 (m, 2H), 1.91-1.85 (m, 2H), 1.76-1.70 (m, 2H); LC-MS (M+1) 370.00.

reactant | 3-chloro-6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}pyridazine | 0.541 mmol, 205 mg | ClC=1N=NC(=CC1)N1CCN(CC1)CC(=O)N1CCN(CC1)C1CCC1 | C18H27ClN6O
reactant | H2O | O | H2O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.325 mmol, 39 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd2dba3 | 0.0135 mmol, 12.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 0.027 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 6-{4-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]piperazin-1-yl}pyridazine-3-carbonitrile | C1(CCC1)N1CCN(CC1)C(CN1CCN(CC1)C1=CC=C(N=N1)C#N)=O | C19H27N7O
